### PR TITLE
[Merged by Bors] - feat(Tactic/MoveAdd): port `move_add`

### PR DESCRIPTION
**Pull request by adomani**
This PR is a short implementation of the `move_add` tactic.

It is intended as a preliminary port, featuring the reordering strategy and a very naïve proof-algorithm.

A more refined version with a more robust proof will appear in a later PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/MoveAdd.lean [hunk 1]
```diff
@@ -0,0 +1,379 @@
...
+These lemmas should be added to `Mathlib.MoveAdd.move_oper_simpCtx`.
+
+## Implementation notes
+
+The tactic takes the target, replaces the maximal subexpressions whose head symbol is the given
+operation and replaces them by their reordered versions.
+Once that is done, it tries to replace the initial goal with the permuted one by using `simp`.
+
+Currently, no attempt is made at guiding `simp` by doing a `congr`-like destruction of the goal.
+I, DT, already have code for this improvement, but am leaving it for a later PR.
```
Comment (semorrison) [inline Mathlib/Tactic/MoveAdd.lean:36]:
```suggestion
I, DT, already have code for this improvement, but am leaving it for a later PR.
```
I think to the extent we put names in implementation notes we use 3rd person. :-)

File: Mathlib/Tactic/MoveAdd.lean [hunk 2]
```diff
@@ -0,0 +1,379 @@
...
+-/
+
+open Lean Expr
+
+/-- `getExprArgs e` inspects the outermost constructor of `e` and returns the array of all the
+arguments to that constructor that are themselves `Expr`essions. -/
+def Lean.Expr.getExprArgs : Expr → Array Expr
```
Comment (semorrison) [inline Mathlib/Tactic/MoveAdd.lean:43]: I think `Args` is a not good in the name here, as this is uniformly used to refer to the `.app` case.

File: test/MoveAdd.lean [hunk 3]
```diff
@@ -0,0 +1,98 @@
+import Mathlib.Tactic.MoveAdd
+import Mathlib.Data.Nat.Basic
+
+universe u
+
+section tactic
+open Mathlib.MoveAdd
+
+run_cmd if uniquify [ 0,      1,      0,      1,      0,      3] ≠
```
Comment (semorrison) [inline test/MoveAdd.lean:9]: Just use `#guard`?

Comment (semorrison) [inline test/MoveAdd.lean:9]: Perhaps move these "internal" tests to the bottom of the file? Test files are effectively part of the documentation, and its helpful if users can learn how to use the tactic by reading the top of the test file!

File: test/MoveAdd.lean [hunk 4]
```diff
@@ -0,0 +1,98 @@
...
+example : let k := c + (a + b); k = a + b + c := by
+  move_add [← a, c]
+  rfl
+
+example (h : b + a = b + c + a) : a + b = a + b + c :=
+by move_add [a]; assumption
+
+example [Mul R] [Neg R] : a + (b + c + a) * (- (d + e) + e) + f + g =
+    (c + b + a) * (e + - (e + d)) + g + f + a := by
+  move_add [b, d, g, f, a, e]; rfl
```
Comment (semorrison) [inline test/MoveAdd.lean:48]: To be honest, I find this very confusing, and have no idea what the intended behaviour of this tactic is! How many different lists are being reordered here??

File: Mathlib/Tactic/MoveAdd.lean [hunk 5]
```diff
@@ -0,0 +1,379 @@
...
+import Mathlib.Algebra.Group.Basic
+
+/-!
+
+#  `move_add` a tactic for moving summands in expressions
+
+The tactic `move_add` rearranges summands in expressions.
+It does so by receiving as input a list of "summand atoms", inducing the desired permutation.
+See the doc-string for `move_oper` for details of how the permutation is determined by the input.
+For the technical description, look at `Mathlib.MoveAdd.weight` and `Mathlib.MoveAdd.reorderUsing`.
```
Comment (semorrison) [inline Mathlib/Tactic/MoveAdd.lean:15]: I think there needs to be a much clearer and human readable spec of what this is doing. At the moment when I look at the examples I am uniformly confused by the intended semantics.

File: Mathlib/Tactic/MoveAdd.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/Tactic/MoveAdd.lean]: Changed `Args` to `Inputs`.  I'm happy to accept a different suggestion, if you have one!

File: test/MoveAdd.lean (hunk 3 above)
Comment (adomani) [reply test/MoveAdd.lean]: I moved these to the other file.

File: test/MoveAdd.lean (hunk 4 above)
Comment (adomani) [reply test/MoveAdd.lean:25]: I added a more detailed description of the algorithm at the beginning of the other file.  While doing so, I realized how many implicit conventions I was using: I hope that I made enough of them explicit!

File: Mathlib/Tactic/MoveAdd.lean (hunk 5 above)
Comment (adomani) [reply Mathlib/Tactic/MoveAdd.lean]: I gave this a shot: now the doc-module contains more details.

Let me know what is still unclear!

**Comment by adomani** [comment]
Scott, thank you very much for taking the time to review and leave comments!  I hope that the extended docs make it easier to understand what the tactic does.

File: test/MoveAdd.lean (hunk 4 above)
Comment (adomani) [reply test/MoveAdd.lean:25]: To answer your question, the `move_add` call in this example places (any subset of) its inputs to the right of each sum in which they appear, preserving the calling order.  Thus, `e` will be the rightmost summand of each sum where it appears, the next rightmost term will be `a`, then `f`, and so on.

File: Mathlib/Tactic/MoveAdd.lean [hunk 6]
```diff
@@ -0,0 +1,448 @@
...
+  * `move_add [a]` changes the goal to `b + c + a` (effectively, `a` moved to the right);
+
+  The tactic reorders *all* sub-expressions of the target at the same same.
+  For instance, if `⊢ 0 < if b + a < b + a + c then a + b else b + a` is the goal, then
+  * `move_add [a]` changes the goal to `0 < if b + a < b + c + a then b + a else b + a`
+    (`a` moved to the right in three sums);
+  * `move_add [← a]` changes the goal to `0 < if a + b < a + b + c then a + b else a + b`
+    (`a` again moved to the left in three sums).
+
+* Longer iputs: `move_add [..., a, ..., ← b, ...]`
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:30]:
```suggestion
* Longer inputs: `move_add [..., a, ..., ← b, ...]`
```

File: Mathlib/Tactic/MoveAdd.lean [hunk 7]
```diff
@@ -0,0 +1,448 @@
...
+  `d + e + [...] + a + b + c`, i.e. `d` and `e` have the same relative position in the input list
+  and in the final rearrangement (and similarly for `a, b, c`).
+  In particular, `move_add [a, b]` likely has the same effect as
+  `move_add [a]; move_add [b]`: first, we move `a` to the right, then we move `b` also to the
+  right, *after* `a`.
+  However, `move_add [← a, ← b]` likely has the same effect as
+  `move_add [b]; move_add [a]`: first, we move `b` to the left, then we move `a` also to the
+  left, *before* `a`.
+  Also note, though, that `move_add [a, b]` may differ `move_add [b]; move_add [a]`,
+  for instance when `a` and `b` are `DefEq`.
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:45]: When reading this paragraph I found myself wondering exactly when "likely has the same effect" applies. Am I right in understanding: `move_add [a, b]` and `move_add [a]; move_add [b]` have the same effect if (and only if?) `a` and `b` do not unify? If so, I would start this paragraph by explaining this assumption.

File: Mathlib/Tactic/MoveAdd.lean [hunk 8]
```diff
@@ -0,0 +1,448 @@
...
+/-- `size e` returns the number of subexpressions of `e`. -/
+partial
+def Lean.Expr.size (e : Expr) : ℕ := (e.getExprInputs.map size).foldl (· + ·) 1
+
+namespace Mathlib.MoveAdd
+
+section ExprProcessing
+
+section reorder
+variable {α :Type*} [BEq α]
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:111]:
```suggestion
variable {α : Type*} [BEq α]
```

File: Mathlib/Tactic/MoveAdd.lean [hunk 9]
```diff
@@ -0,0 +1,448 @@
...
+
+The inputs `a, b,...` can be any terms, also with underscores.
+The tactic uses the first "new" summand that unifies with each one of the given inputs.
+
+There is a multiplicative variant, called `move_mul`.
+
+There is also a general tactic for a "binary associative commutative operation": `move_oper`.
+In this case the syntax requires providing first a term whose head symbol is the operation.
+E.g. `move_oper (0 + 0) [...]` is the same as `move_add`, while `move_oper (max 0 0) [...]`
+rearranges `max`s.
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:422]: Why not pass the name of the operator directly? (Assuming the syntax didn't change in Lean 4: ``move_oper `HAdd.add``.) That seems a lot less prone to accidental misparsing than writing out a small expression.

File: Mathlib/Tactic/MoveAdd.lean [hunk 10]
```diff
@@ -0,0 +1,448 @@
...
+-/
+elab (name := moveOperTac) "move_oper" "(" oper:term ")" rws:rwRuleSeq  dbg:"-debug"? : tactic => do
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:424]: Instead of `dbg`, why not use a trace option? For example:
```
initialize registerTraceClass `Tactic.move_oper

...

do
  trace[Tactic.move_oper] m!"\nErrors:\nThe terms in '{unmatched}' were not matched to any atom"
```

File: Mathlib/Tactic/MoveAdd.lean [hunk 11]
```diff
@@ -0,0 +1,448 @@
...
+  -- parse the list of terms
+  let (instr, (unmatched, stxs), dbgMsg) ← parsing rws op (← instantiateMVars (← getMainTarget))
+  -- prepare the various error messages
+  let finErr := if unmatched.length = 0 then .nil else
+    m!"\nErrors:\nThe terms in '{unmatched}' were not matched to any atom"
+  let _ := ← stxs.mapM (logErrorAt · "") -- underline all non-matching terms
+  let _ := ← match dbg, unmatched with
+    | none, []      => return ()                                  -- no `debug`-mode: successful
+    | none, _       => throwErrorAt stxs[0]! finErr               -- no `debug`-mode: unsuccessful
+    | some dbs,  _  =>  let finDbg : MessageData := dbgMsg.foldl  -- `debug`-mode
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:436]: Is the debug message likely to be very long, and therefore not shown until you opt into it? Otherwise I'd always show as much relevant information as possible when an error occurs.

File: Mathlib/Tactic/MoveAdd.lean [hunk 12]
```diff
@@ -0,0 +1,448 @@
...
+
+/-!
+
+#  `move_add` a tactic for moving summands in expressions
+
+The tactic `move_add` rearranges summands in expressions.
+
+The tactic takes as input a list of terms, each one optionally preceded by `←`.
+A term preceded by `←` gets moved to the left, while a term without `←` gets moved to the right.
+
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:16]: Does this tactic depend on how the operator is associated? That is: does a goal `a + (b + c)` work differently from `(a + b) + c`?

File: Mathlib/Tactic/MoveAdd.lean [hunk 13]
```diff
@@ -0,0 +1,448 @@
...
+It unifies the terms with the atoms for the operation `op` in the expression `tgt`, returning
+* the lists of pairs of a matched subexpression with `true` for an arrow `←` and `false` otherwise;
+* an array of error messages;
+* an array of debugging messages.
+
+E.g. convert `[a, ← b, _ * (1 : ℤ)]` to `pairs = ([(a, false), (z * 1, false)], , [(b, true)]`, if
+`b` does not match a subexpression of `tgt` and the first summand involving a multiplication by `1`
+is `z * 1`.
+-/
+def parsing (rws : TSyntax `Lean.Parser.Tactic.rwRuleSeq) (op : Name) (tgt : Expr) :
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:390]: I'd like a slightly more descriptive name. How about:
```suggestion
def parseMovements (rws : TSyntax `Lean.Parser.Tactic.rwRuleSeq) (op : Name) (tgt : Expr) :
```

File: Mathlib/Tactic/MoveAdd.lean [hunk 14]
```diff
@@ -0,0 +1,448 @@
...
+elab (name := moveOperTac) "move_oper" "(" oper:term ")" rws:rwRuleSeq  dbg:"-debug"? : tactic => do
+  -- parse the operation
+  let op := (← Term.elabTerm oper none).getAppFn.constName
+  -- parse the list of terms
+  let (instr, (unmatched, stxs), dbgMsg) ← parsing rws op (← instantiateMVars (← getMainTarget))
+  -- prepare the various error messages
+  let finErr := if unmatched.length = 0 then .nil else
+    m!"\nErrors:\nThe terms in '{unmatched}' were not matched to any atom"
+  let _ := ← stxs.mapM (logErrorAt · "") -- underline all non-matching terms
+  let _ := ← match dbg, unmatched with
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:433]: Can't you just write:
```suggestion
  stxs.mapM (logErrorAt · "") -- underline all non-matching terms
  match dbg, unmatched with
```

File: Mathlib/Tactic/MoveAdd.lean [hunk 15]
```diff
@@ -0,0 +1,448 @@
...
+E.g. convert `[a, ← b, _ * (1 : ℤ)]` to `pairs = ([(a, false), (z * 1, false)], , [(b, true)]`, if
+`b` does not match a subexpression of `tgt` and the first summand involving a multiplication by `1`
+is `z * 1`.
+-/
+def parsing (rws : TSyntax `Lean.Parser.Tactic.rwRuleSeq) (op : Name) (tgt : Expr) :
+    TermElabM (List (Expr × Bool) × (List MessageData × List Syntax) × Array MessageData) :=
+do match rws with
+  | `(rwRuleSeq| [$rs,*]) => do
+    let pairs := ← rs.getElems.mapM fun rstx => do
+      let r : Syntax := rstx
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:395]: I don't get the `let` line: why not use `rstx` everywhere? Or is there something I missed here?

File: Mathlib/Tactic/MoveAdd.lean [hunk 16]
```diff
@@ -0,0 +1,448 @@
...
+      return (← Term.elabTerm r[1]! none, ! r[0]!.isNone, rstx)
+    let ops := ← getOps op tgt
+    let atoms := ((ops.map Prod.fst).foldl (· ++ ·) #[]).toList.filter ((!isBVar ·))
+    -- `instr` are the unified user-provided terms, `neverMatched` are non-unified ones
+    let (instr, neverMatched) := ← pairUp pairs.toList atoms
+    let dbgMsg := #[m!"Matching of input variables:\n* pre-match:  {
+      pairs.map (Prod.snd ∘ Prod.snd)}\n* post-match: {instr}",
+      m!"\nMaximum number of iterations: {ops.size}"]
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:403]: This is an example of a message that can be displayed with a `trace`.

**Review by Vierkantor — APPROVED** [review]
Here's an initial review! I'd like to come back to this in a couple of hours.

File: Mathlib/Tactic/MoveAdd.lean [hunk 17]
```diff
@@ -0,0 +1,448 @@
...
+-/
+
+/-- `uniquify L` takes a list `L : List α` as input and it returns a list `L' : List (α × ℕ)`.
+The two lists `L` and `L'.map Prod.fst` coincide.
+The second component of each entry `(a, n)` in `L'` is the number of times that `a` appears in `L`
+before the current location.
+
+The resulting list of pairs has no duplicates.
+-/
+def uniquify : List α → List (α × ℕ)
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:133]: Could you explain how you choose between List and Array? I had the impression that Array is the right default choice in Lean 4.

File: Mathlib/Tactic/MoveAdd.lean [hunk 18]
```diff
@@ -0,0 +1,448 @@
...
+    let lms := uniquify ms
+    (m, 0) :: (lms.map fun (x, n) => if x == m then (x, n + 1) else (x, n))
+
+variable [Inhabited α]
+
+/--  `weight L` takes a list of pairs `(a, h?)` where
+* `a` is a term of some type `α` and
+* `h?` is a `Bool`ean
+
+and returns a function `α → ℤ`.
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:145]: The types are already clear so let's try to write a one-line summary:
```suggestion
/-- Return a sorting key so that all `(a, true)`s are in the list's order
and sorted before all `(a, false)`s, which are also in the list's order.
```

File: Mathlib/Tactic/MoveAdd.lean [hunk 19]
```diff
@@ -0,0 +1,448 @@
...
+let l := L.length
+match L.find? (Prod.fst · == a) with
+  | some (_, b) => if b then - l + (L.indexOf (a, b) : ℤ) else (L.indexOf (a, b) + 1 : ℤ)
+  | none => 0
+
+/--  `reorderUsing toReorder instructions` produces a reordering of `toReorder : List α`,
+following the requirements imposed by `instructions : List (α × Bool)`.
+
+These are the requirements:
+* elements of `toReorder` that appear with `true` in `instructions appear at the
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:171]:
```suggestion
* elements of `toReorder` that appear with `true` in `instructions` appear at the
```

File: Mathlib/Tactic/MoveAdd.lean [hunk 20]
```diff
@@ -0,0 +1,448 @@
...
+`{a : α | (a, true) ∈ L}` and `{a : α | (a, false) ∈ L}`,
+in the sense that if `a' = (a, true)` and `b' = (b, true)` are in `L`,
+then `a'` appears before `b'` in `L` if and only if `weight L a < weight L b` and
+similarly for the pairs with second coordinate equal to `false`.
+-/
+def weight (L : List (α × Bool)) (a : α) : ℤ :=
+let l := L.length
+match L.find? (Prod.fst · == a) with
+  | some (_, b) => if b then - l + (L.indexOf (a, b) : ℤ) else (L.indexOf (a, b) + 1 : ℤ)
+  | none => 0
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:165]: Don't forget to indent definition bodies (also below):
```suggestion
  let l := L.length
  match L.find? (Prod.fst · == a) with
  | some (_, b) => if b then - l + (L.indexOf (a, b) : ℤ) else (L.indexOf (a, b) + 1 : ℤ)
  | none => 0
```

File: Mathlib/Tactic/MoveAdd.lean [hunk 21]
```diff
@@ -0,0 +1,448 @@
...
+#guard
+  (let dat := [(0, true), (1, false), (2, true)]
+   (#[0, 1, 2, 3, 4].qsort (fun x y => (weight dat x) ≤ (weight dat y)) = #[0, 2, 3, 4, 1]))
+
+#guard false = ( reorderUsing [0, 1, 2] [(0, false)] = [1, 2, 0] &&
+                 reorderUsing [0, 1, 2] [(1, true)] = [1, 0, 2] &&
+                 reorderUsing [0, 1, 2] [(1, true), (0, false)] != [1, 2, 0])
+
+#guard reorderUsing [1, 5, 4, 3, 2, 1] [(3, true), (2, false), (1, false)] =
+                        [3, 5, 4, 1, 2, 1]
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:209]: I like this way of testing! Did you take it from some other file? I do wonder if it shouldn't be in the `test` folder...

File: Mathlib/Tactic/MoveAdd.lean [hunk 22]
```diff
@@ -0,0 +1,448 @@
...
+
+end tactic
+
+end reorder
+
+end ExprProcessing
+
+open Meta
+
+variable (op : Name) (R : Expr) in
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:219]: Why not have these variables as parameter to the definition, or reuse them across the definitions in this section?

File: Mathlib/Tactic/MoveAdd.lean [hunk 23]
```diff
@@ -0,0 +1,448 @@
...
+looking for instance of the operation `op`.
+
+Possibly returns duplicates!
+-/
+partial def getOps (sum : Expr) : MetaM (Array ((Array Expr) × Expr)) := do
+let summands := ← getAddends op (← inferType sum <|> return sum) sum
+let (first, rest) := if summands.size == 1 then (#[], sum.getExprInputs) else
+  (#[(summands, sum)], summands)
+let rest := ← rest.mapM getOps
+return rest.foldl Array.append  first
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:240]:
```suggestion
partial def getOps (sum : Expr) : MetaM (Array ((Array Expr) × Expr)) := do
  let summands := ← getAddends op (← inferType sum <|> return sum) sum
  let (first, rest) := if summands.size == 1 then (#[], sum.getExprInputs) else
    (#[(summands, sum)], summands)
  let rest := ← rest.mapM getOps
  return rest.foldl Array.append  first
```

File: Mathlib/Tactic/MoveAdd.lean [hunk 24]
```diff
@@ -0,0 +1,448 @@
...
+It returns the expression consisting of the operation with all its arguments already applied,
+except for the last two.
+This is similar to `Lean.Meta.mkAdd, Lean.Meta.mkMul`, except that the resulting operation is
+primed to work with operands of the same type as the ones already appearing in `sum`.
+
+This is useful to rearrange the operands.
+-/
+def prepareOp (sum : Expr) : Expr :=
+let opargs := sum.getAppArgs
+(opargs.toList.take (opargs.size - 2)).foldl (fun x y => Expr.app x y) sum.getAppFn
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:254]:
```suggestion
  let opargs := sum.getAppArgs
  (opargs.toList.take (opargs.size - 2)).foldl (fun x y => Expr.app x y) sum.getAppFn
```

**Review by Vierkantor — COMMENTED** [review]
Some more comments. Hopefully tomorrow I can finish the first round.

File: Mathlib/Tactic/MoveAdd.lean (hunk 17 above)
Comment (adomani) [reply Mathlib/Tactic/MoveAdd.lean:133]: I mostly went with the flow: `Expr.getAppArgs` returns an `Array`, but sorting related functions want `List`, so I ended up using both.

File: Mathlib/Tactic/MoveAdd.lean (hunk 21 above)
Comment (adomani) [reply Mathlib/Tactic/MoveAdd.lean:209]: I am glad that you like it!

I think that I had it in the `test` folder, but Scott preferred the tests to actually test the tactic, rather than the internals, so I moved it here,

**Review by adomani — COMMENTED** [review]
@Vierkantor, thank you very much for your review!  I started looking at it, but it is getting late!  I will continue tomorrow.

I will likely end up accepting all your suggestions, but I want to make sure that I actually understand what it is that you are suggesting, so that I learn something!  :-)

File: Mathlib/Tactic/MoveAdd.lean (hunk 21 above)
Comment (adomani) [reply Mathlib/Tactic/MoveAdd.lean:206]: Oh, I see that Scott actually wanted the tests to move to the *bottom* of the test file, not to the *other* file! :facepalm:

I'll move these tests at the bottom of the (currently) other file when I'll look at this PR when I am less tired!

File: Mathlib/Tactic/MoveAdd.lean (hunk 12 above)
Comment (Vierkantor) [reply Mathlib/Tactic/MoveAdd.lean:17]: Could you add a comment somewhere explaining this?

File: Mathlib/Tactic/MoveAdd.lean (hunk 7 above)
Comment (Vierkantor) [reply Mathlib/Tactic/MoveAdd.lean:46]: I see, thanks! I suppose we could then write something like "if the terms matched by `a` and `b` do not overlap".

File: Mathlib/Tactic/MoveAdd.lean [hunk 25]
```diff
@@ -0,0 +1,427 @@
...
+
+/--  `sumList op exs` assumes that `op` is the `Name` of a binary operation.
+If `exs` is the list `[e₁, e₂, ..., eₙ]` of `Expr`essions, then `sumList` returns
+`op (op( ... op (op e₁ e₂) e₃) ... eₙ)`.
+-/
+partial
+def sumList1 (prepOp : Expr) : List Expr → Expr
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:240]:
```suggestion
/-- `sumList1 op exs` assumes that `op` is the `Name` of a binary operation.
If `exs` is the list `[e₁, e₂, ..., eₙ]` of `Expr`essions, then `sumList` returns
`op (op( ... op (op e₁ e₂) e₃) ... eₙ)`.
-/
partial
def sumList1 (prepOp : Expr) : List Expr → Expr
```
(or is `sumList` the intended name?)

File: Mathlib/Tactic/MoveAdd.lean [hunk 26]
```diff
@@ -0,0 +1,427 @@
...
+sorted by decreasing value of `Lean.Expr.size`.
+In particular, a subexpression of an `old_sum` can only appear *after* its over-expression.
+-/
+def rankSums (op : Name) (tgt : Expr) (instructions : List (Expr × Bool)) :
+    MetaM (List (Expr × Expr)) := do
+  let sums := ← getOps op (← instantiateMVars tgt)
+  let candidates := ← sums.mapM fun (addends, sum) => do
+    let reord := reorderUsing addends.toList instructions
+    let resummed := sumList1 (prepareOp sum) reord
+    if (resummed != sum) then return some (sum, resummed) else return none
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:264]: I don't see any bind in this `do`, so this can be a normal `map`, right? (untested)
```suggestion
  let candidates := sums.map fun (addends, sum) =>
    let reord := reorderUsing addends.toList instructions
    let resummed := sumList1 (prepareOp sum) reord
    if (resummed != sum) then some (sum, resummed) else none
```

File: Mathlib/Tactic/MoveAdd.lean [hunk 27]
```diff
@@ -0,0 +1,427 @@
...
+  return (candidates.toList.reduceOption.toArray.qsort
+    (fun x y : Expr × Expr ↦ (y.1.size  ≤ x.1.size))).toList
+
+/-- `permuteExpr op tgt instructions` takes the same input as `rankSums` and returns the
+expression obtained from `tgt` by replacing all `old_sum`s by the corresponding `new_sum`.
+If there were no required changes, then `permuteExpr` reports this in its second factor. -/
+def permuteExpr (op : Name) (tgt : Expr) (instructions : List (Expr × Bool)) :
+    MetaM Expr := do
+  let permInstructions := ← rankSums op tgt instructions
+  if permInstructions == [] then throwError "The goal is already in the required form"
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:274]: This seems to disagree with your explanation of `move_add []`: here it throws an error instead of reassociating the operator.

File: Mathlib/Tactic/MoveAdd.lean [hunk 28]
```diff
@@ -0,0 +1,427 @@
...
+  let mut permTgt := tgt
+  for (old, new) in permInstructions do
+    permTgt := permTgt.replace (if · == old then new else none)
+  return permTgt
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:278]: `Expr.replace` has a highly optimized implementation, so let's move it to the outer loop: (untested)
```suggestion
  return tgt.replace (fun e => do
    let (_, new) ← permInstructions.find? (fun (old, new) => e == old)
    return new)
```

Comment (Vierkantor) [reply Mathlib/Tactic/MoveAdd.lean:278]: I would expect there is already an implementation of this kind of construction, where we replace a list of expressions with another. But I couldn't find it in the library.

However, if `rankSums` returns a hashmap, we could even write this as `return tgt.replace permInstructions.find?`, so a library function isn't really needed any more.

File: Mathlib/Tactic/MoveAdd.lean (hunk 7 above)
Comment (Vierkantor) [reply Mathlib/Tactic/MoveAdd.lean:46]: In any case, is it supposed to be an important use of `move_add` to support overlap, or can we simply say that behaviour in case of overlap is unspecified?

File: Mathlib/Tactic/MoveAdd.lean [hunk 29]
```diff
@@ -0,0 +1,427 @@
...
+  | _, _ => return ([], [])
+
+open Elab.Tactic
+
+/-- `move_oper_simpCtx` is the `Simp.Context` for the reordering internal to `move_oper`.
+To support a new binary operation, extend the list in this definition, so that it contains
+enough lemmas to allow `simp` to close a generic permutation goal for the new binary operation.
+-/
+def move_oper_simpCtx : MetaM Simp.Context := do
+  -- the `simpOnlyBuiltins` are `eq_self` and `iff_self`
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:319]: I'd leave this fact to the documentation of `simpOnlyBuiltins` itself, since it seems likely that this comment goes out of date unnoticed.
```suggestion
```

File: Mathlib/Tactic/MoveAdd.lean [hunk 30]
```diff
@@ -0,0 +1,427 @@
...
+To work with a general associative, commutative binary operation, `move_oper`
+needs to have inbuilt the lemmas asserting the analogues of
+`add_comm, add_assoc, add_left_comm` for the new operation.
+Currently, `move_oper` supports `HAdd.hAdd`, `HAdd.hAdd`, `and`, `or`, `max`, `min`.
+
+These lemmas should be added to `Mathlib.MoveAdd.move_oper_simpCtx`.
+
+## Implementation notes
+
+The tactic takes the target, replaces the maximal subexpressions whose head symbol is the given
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:82]: For easier navigation in the file, let's add a signpost here.
```suggestion
The main driver behind the tactic is `Mathlib.MoveAdd.reorderAndSimp`.

The tactic takes the target, replaces the maximal subexpressions whose head symbol is the given
```

File: Mathlib/Tactic/MoveAdd.lean [hunk 31]
```diff
@@ -0,0 +1,427 @@
...
+  -- generate the implication `permutedMv → mv = permutedMv → mv`
+  let eqmpr := ← mkAppM ``Eq.mpr #[← mkFreshExprMVar (← mkEq (← mv.getType) permExpr)]
+  let twoGoals := ← mv.apply eqmpr
+  guard (twoGoals.length == 2) <|>
+    throwError m!"There should only be 2 goals, instead of {twoGoals.length}"
+  -- `permGoal` is the single goal `mv_permuted`, possibly more operations will be permuted later on
+  let permGoal := ← twoGoals.filterM fun v => return !(← v.isAssigned)
+  match ← (simpGoal (permGoal[1]!) (← move_oper_simpCtx)) with
+    | (some x, _) => throwError m!"'move_oper' could not solve {indentD x.2}"
+    | (none, _) => return permGoal
```
Comment (Vierkantor) [inline Mathlib/Tactic/MoveAdd.lean:353]:
```suggestion
  let permExpr ← permuteExpr op (← mv.getType'') instr
  -- generate the implication `permutedMv → mv = permutedMv → mv`
  let eqmpr ← mkAppM ``Eq.mpr #[← mkFreshExprMVar (← mkEq (← mv.getType) permExpr)]
  let twoGoals ← mv.apply eqmpr
  guard (twoGoals.length == 2) <|>
    throwError m!"There should only be 2 goals, instead of {twoGoals.length}"
  -- `permGoal` is the single goal `mv_permuted`, possibly more operations will be permuted later on
  let permGoal ← twoGoals.filterM fun v => return !(← v.isAssigned)
  match ← (simpGoal (permGoal[1]!) (← move_oper_simpCtx)) with
    | (some x, _) => throwError m!"'move_oper' could not solve {indentD x.2}"
    | (none, _) => return permGoal
```

File: Mathlib/Tactic/MoveAdd.lean (hunk 10 above)
Comment (adomani) [reply Mathlib/Tactic/MoveAdd.lean:404]: This is also very nice, thanks!

File: Mathlib/Tactic/MoveAdd.lean (hunk 14 above)
Comment (adomani) [reply Mathlib/Tactic/MoveAdd.lean:413]: In any case, with the `trace` this is all much cleaner.  I still could not get rid of the `let` for the `logError`, but the rest looks much tidier!

File: Mathlib/Tactic/MoveAdd.lean (hunk 11 above)
Comment (adomani) [reply Mathlib/Tactic/MoveAdd.lean:416]: There is already an error being reported, showing which user input was not unified with any atom.

The debug message gives information about what were the terms before and after unification and how many passes of rewrites have happened.  I think that showing this will every error may be excessive.  It is useful if the tactic does not work to give a hint as to where the issue might be, though.

Comment (adomani) [reply Mathlib/Tactic/MoveAdd.lean:416]: Here is an example:
```lean
set_option trace.Tactic.move_oper true

example (a b : ℕ) : a + b = b + a := by
  move_add [5, ← a, a, 6 + _]  -- `5` and `6 + _` are underlined in red, regardless of the trace
--  Always displayed:
/-
Errors:
The terms in '[5, 6 + ?m.27046]' were not matched to any atom
-/

-- output of trace:
/-
[Tactic.move_oper] Matching of input variables:
    * pre-match:  [5, ← a, a, 6 + _]
    * post-match: [(a, true), (a, false)]
    
    ---
    
    Maximum number of iterations: 2
    
    ---
-/
```

**Review by adomani — COMMENTED** [review]
@Vierkantor, thank you very very much for a really thorough review!!

I am very happy with all of your suggestions: they improved the code in terms of efficiency, readability, clarity.

File: Mathlib/Tactic/MoveAdd.lean (hunk 22 above)
Comment (adomani) [reply Mathlib/Tactic/MoveAdd.lean]: I had used `variable ... in` so that in the recursive calls I did not have to repeat them, since they were not changing.

I have now defined a global variable `op`, but left `R` local to this def, since it is used nowhere else.

In general, I am a little worried by making global variable declarations, since they may be incorrectly used in later definitions, but this case seems to work well.

**Comment by adomani** [comment]
I do not know how to please the linter: the last couple of failures of CI are due to
```
Detect changes to header SHAs / Add annotations (pull_request)
```
but re-running the job does not seem to change much.

File: Mathlib/Tactic/MoveAdd.lean (hunk 15 above)
Comment (Vierkantor) [reply Mathlib/Tactic/MoveAdd.lean]: I see! The reason is `TSyntax` is a wrapper around `Syntax` and the `let` is somewhat hiding a cast. I guessed so, and I don't know a better way to express it, so this way is fine.

File: Mathlib/Tactic/MoveAdd.lean (hunk 22 above)
Comment (Vierkantor) [reply Mathlib/Tactic/MoveAdd.lean]: I see! It's actually a nice pattern, I just didn't know that that was the reason.

**Comment by Vierkantor** [comment]
> I do not know how to please the linter: the last couple of failures of CI are due to
> 
> ```
> Detect changes to header SHAs / Add annotations (pull_request)
> ```
> 
> but re-running the job does not seem to change much.

No idea either. I've opened a Zulip thread: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Build.20failed.3A.20detect.20changes.20to.20header.20SHAs

**Review by Vierkantor — APPROVED** [review]
I'm happy with the changes, thanks! I still don't consider myself experienced enough with Lean 4 metaprogramming to review an entire tactic, so:

maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
